US04251539
3-Isopropyl-5-[2-(2,3-epoxypropoxy)-styryl]-isoxazole
This compound is prepared by the method described for Example VI, from 3.4 g of 55% strength sodium hydride (0.078 mole), 18 g (0.078 mole) of 3-isopropyl-5-(2-hydroxystyryl)-isoxazole and 10.8 g (0.078 mole) of epibromohydrin. 21.5 g (97% of theory) of a colorless oil.

reactant | sodium hydride | 0.078 mole | [H-].[Na+]
reactant | 3-isopropyl-5-(2-hydroxystyryl)-isoxazole | 0.078 mole, 18 g | C(C)(C)C1=NOC(=C1)C=CC1=C(C=CC=C1)O | C14H15NO2
reactant | epibromohydrin | 0.078 mole, 10.8 g | C(Br)C1CO1 | C3H5BrO
product | 3-Isopropyl-5-[2-(2,3-epoxypropoxy)-styryl]-isoxazole | C(C)(C)C1=NOC(=C1)C=CC1=C(C=CC=C1)OCC1CO1 | C17H19NO3
